US05672697
9-(3-O-t-Butyldimethylsilyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N6 -benzoyladenine (58)
This compound is prepared from 9-[2-deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N6 -benzoyladenine by the same procedure used for the preparation of 3'-O-t-butyldimethylsilyl-N6 -benzoyl-2'-deoxyadenosine.

reactant | 9-[2-deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N6 -benzoyladenine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C3=NC=NC(=C3N=C2)NC(C2=CC=CC=C2)=O)F)O)C=C1 | C38H34FN5O6
reactant | 3'-O-t-butyldimethylsilyl-N6 -benzoyl-2'-deoxyadenosine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12 | C23H31N5O4Si
product | 9-(3-O-t-Butyldimethylsilyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N6 -benzoyladenine | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@@H](O[C@@H]1CO)N1C2=NC=NC(=C2N=C1)NC(C1=CC=CC=C1)=O)F | C23H30FN5O4Si
